US07442830B1
To a solution of 2,3-difluorobenzoic acid (0.190 g, 1.2 mmol) in tetrahydrofuran (5 mL) were added glycine methyl ester hydrochloride (0.150 g, 1.2 mmol), HOBt (0.162 g, 1.2 mmol), DIEA (0.209 mL, 1.2 mmol) and EDCI (0.252 g, 1.3 mmol). The reaction mixture was allowed to stir overnight. The reaction mixture was quenched with a saturated solution of sodium bicarbonate and the product partitioned into DCM. Separation of the organic layer followed by removal of the solvent gave methyl [(2,3-difluorobenzoyl)amino]acetate which was used in the next step without purification.

reactant | 2,3-difluorobenzoic acid | 1.2 mmol, 0.190 g | FC1=C(C(=O)O)C=CC=C1F | C7H4F2O2
reactant | glycine methyl ester hydrochloride | 1.2 mmol, 0.150 g | Cl.COC(CN)=O
reactant | HOBt | 1.2 mmol, 0.162 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.2 mmol, 0.209 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.3 mmol, 0.252 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | methyl [(2,3-difluorobenzoyl)amino]acetate | FC1=C(C(=O)NCC(=O)OC)C=CC=C1F | C10H9F2NO3
